US05610174
Synthesis of (±)-4-Methyl-6-methoxy-3,4,4a,5,10,10a- hexahydro-2H-naphtho[2,3-b][1,4]oxazine.
To a solution of 6-methoxy-3,4,4a,5,10,10a-hexahydro-2H-naphtho-[2,3-b][1,4]oxazine-4-carboxylic acid benzyl ester (0.40 g, 1.1 mmol) in THF was added 2.8 ml of LiAlH4 solution (1.0 M) in THF. The resulting solution was stirred at reflux for 3 h. The reaction mixture was quenched with ice, diluted with EtOAc and filtered through Celite. The organic layer was dried over Na2SO4 and concentrated in vacuo, yielding an oily residue which was subjected to column chromatography (5% MeOH-EtOAc) to yield 0.19 g (75%) of the desired product. 1H NMR (300 MHz, CDCl3): δ 2.07 (m, 1H), 2.28 (m, 1H), 2.37 (s, 3H), 2.49 (m, 1H), 2.77 (m, 2H), 2.97 (dd, 1H, J=5.5, 16.1 Hz), 3.28 (dd, 1H, J=5.5, 17.0 Hz), 3.55 (m, 1H), 3.79 (s, 3H), 3.86 (m, 2H), 6.67 (m, 2H), 7.09 (t, 1H, J=7.8 Hz).

reactant | 6-methoxy-3,4,4a,5,10,10a-hexahydro-2H-naphtho-[2,3-b][1,4]oxazine-4-carboxylic acid benzyl ester | 1.1 mmol, 0.40 g | C(C1=CC=CC=C1)OC(=O)N1C2C(OCC1)CC1=CC=CC(=C1C2)OC | C21H23NO4
reactant | LiAlH4 | 1.0 M, 2.8 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | MeOH EtOAc | CO.CCOC(=O)C
solvent | THF | C1CCOC1 | C4H8O
product | (±)-4-Methyl-6-methoxy-3,4,4a,5,10,10a- hexahydro-2H-naphtho[2,3-b][1,4]oxazine | 0.19 g, 75% | CN1C2C(OCC1)CC1=CC=CC(=C1C2)OC | C14H19NO2
